### PR TITLE
feat(ErdosProblems/90): record May 2026 disproof as benchmark conjectures

### PR DESCRIPTION
**Pull request by henrykmichalewski**
## Summary

Records the May 2026 disproof of Erdős's unit-distance conjecture (problem #90) as benchmark conjecture statements, plus carves the load-bearing steps of the proof into independent challenges.

The conjecture was disproved in May 2026 by an OpenAI internal model, with the proof digested and human-verified in two arXiv papers:

- [arXiv:2605.20579](https://arxiv.org/abs/2605.20579) — W. Sawin, *An explicit lower bound for the unit distance problem*. Gives \`u(n) ≥ n^{1.014114}/C\` for infinitely many \`n\`.
- [arXiv:2605.20695](https://arxiv.org/abs/2605.20695) — N. Alon, T. F. Bloom, W. T. Gowers, D. Litt, W. Sawin, A. Shankar, J. Tsimerman, V. Wang, M. Matchett Wood, *Remarks on the disproof of the unit distance conjecture*. Human-verified digest with the qualitative form \`∃ ε > 0, u(n) ≥ n^{1+ε}\`.

### Changes

**\`FormalConjectures/ErdosProblems/90.lean\`** — two new variants of \`erdos_90\`, both \`sorry\`-stubbed:

- \`Erdos90.erdos_90.variants.polynomial_lower_bound\` — qualitative \`∃ c > 0\` form (Remarks Thm 1.1).
- \`Erdos90.erdos_90.variants.sawin_explicit\` — explicit \`c ≥ 0.014114\` form (Sawin Thm 1).

**\`FormalConjectures/Arxiv/2605.20579/Sawin.lean\`** (new) — three benchmark conjectures factoring Sawin's proof:

- \`lemma_2_lattice_to_unit_distances\` — pure geometry-of-numbers reduction.
- \`lemmas_11_12_tower\` — existence of a totally real number field with bounded root discriminant and infinitely many completely split rational primes (Golod–Shafarevich + Hajir–Maire–Ramakrishna). The hardest sub-challenge.
- \`theorem_1_explicit_lower_bound\` — the assembled explicit bound.

**\`FormalConjectures/Arxiv/2605.20695/Remarks.lean\`** (new) — Proposition 2.3 of the Remarks paper as a refinement of \`lemmas_11_12_tower\` that additionally requires the split primes to satisfy \`q ≡ 1 (mod 4)\`.

### Notes for reviewers

- All three statements in \`Sawin.lean\` and the one in \`Remarks.lean\` are tagged \`@[category research solved]\` since the papers prove them informally. No \`@[formal_proof]\` attribute is added — the valid kinds are \`formal_conjectures | lean4 | other_system\`, and no Lean proof of any of these exists yet.
- The headline disproof of #90 itself remains \`sorry\`-stubbed in \`90.lean\` (matching the existing \`erdos_90\` statement updated by #4033).
- \`lemmas_11_12_tower\` and \`prop_2_3_totally_real_tower\` are intentionally distinct: the Sawin form is weaker (any split prime); the Remarks form adds the \`≡ 1 (mod 4)\` refinement.
- One round of audit caught a vacuous statement: an earlier version of \`lemmas_11_12_tower\` declared the \`rdBound\` and CM-extension existentials without ever constraining them, making the statement trivially true. The fix (in the third commit) supplies the missing root-discriminant and split-prime conditions.

### Test plan

- [x] \`lake build\` of all 8721 jobs green against \`leanprover/lean4:v4.27.0\` / Mathlib \`v4.27.0\`.
- [x] All four new statements type-check.
- [x] Linters: copyright, namespace, category, AMS, docstring, answer — all pass.
- [x] Citations to both arXiv papers verified.
- [ ] Reviewer to confirm tag choices and the rephrasing of Sawin's Lemma 12 as an absolute (rather than relative) root-discriminant bound.

### Authorship

Drafted by @henrykmichalewski with assistance from Anthropic's Claude Code (Opus 4.7). The Lean source, statement design, and audit were iterated with the assistant; final review and submission are by the human author.

The Google CLA is already signed under \`henrykmichalewski@gmail.com\`.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/90.lean [hunk 1]
```diff
@@ -75,6 +75,33 @@ theorem erdos_90 : answer(False) ↔ ∃ (O : ℕ → ℝ) (hO : O =O[atTop] (fu
...
+
+/--
+**Sawin's explicit exponent.** The constructive disproof can be realised with `c ≥ 0.014114`
+(absorbing the implicit constant `C` of Sawin's Theorem 1 into a slightly smaller exponent for
+all large enough `n`). Reference: Theorem 1 of Sawin, [arXiv:2605.20579](https://arxiv.org/abs/2605.20579)
+(2026).
+-/
+@[category research solved, AMS 52]
+theorem erdos_90.variants.sawin_explicit :
+    {n : ℕ | (n : ℝ) ^ (1 + (14114 : ℝ) / 1000000) ≤ (maxUnitDistances n : ℝ)}.Infinite := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/90.lean]:
```suggestion
    {n : ℕ | n ^ (1.014114 : ℝ) ≤ (maxUnitDistances n : ℝ)}.Infinite := by
```

why the fraction form? Could also be a rational, I suppose

File: FormalConjectures/ErdosProblems/90.lean [hunk 2]
```diff
@@ -75,6 +75,33 @@ theorem erdos_90 : answer(False) ↔ ∃ (O : ℕ → ℝ) (hO : O =O[atTop] (fu
...
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/90.lean:176]:
```suggestion
/--
**Sawin's explicit exponent.** The constructive disproof can be realised with $c \ge 0.014114$
(absorbing the implicit constant $C$ of Sawin's Theorem 1 into a slightly smaller exponent for
all large enough $n$). Reference: Theorem 1 of Sawin, [arXiv:2605.20579](https://arxiv.org/abs/2605.20579)
(2026).
-/
@[category research solved, AMS 52]
theorem erdos_90.variants.sawin_explicit :
    {n : ℕ | n ^ (1.014114 : ℝ) ≤ (maxUnitDistances n : ℝ)}.Infinite := by
  sorry

/-- Sawin's explicit bound implies the qualitative polynomial lower bound, by taking
$c = 0.014114$. -/
@[category test, AMS 52]
theorem erdos_90.variants.sawin_explicit_implies_polynomial_lower_bound :
    type_of% erdos_90.variants.sawin_explicit →
    type_of% erdos_90.variants.polynomial_lower_bound := by
  intro h
  exact ⟨0.014114, by norm_num, by convert h; norm_num⟩

/-- The polynomial lower bound implies the answer to Erdős 90 is `False`: a fixed positive
exponent $c$ is incompatible with the conjectured $O(1 / \log \log n)$ growth. -/
@[category test, AMS 52]
theorem erdos_90.variants.polynomial_lower_bound_implies_erdos_90 :
    type_of% erdos_90.variants.polynomial_lower_bound →
    type_of% erdos_90 := by
  rintro ⟨c, hc, hInf⟩
  refine ⟨fun h => h.elim, fun ⟨O_fn, hO_bigO, hO_eq⟩ => ?_⟩
  -- 1/log(log(n)) → 0, so O_fn = O(1/log log n) implies O_fn → 0
  have hg : Tendsto (fun n : ℕ => (1 : ℝ) / (↑n : ℝ).log.log) atTop (nhds 0) := by
    simp_rw [one_div]
    exact tendsto_inv_atTop_zero.comp
      (Real.tendsto_log_atTop.comp (Real.tendsto_log_atTop.comp tendsto_natCast_atTop_atTop))
  have hO_zero : Tendsto O_fn atTop (nhds 0) :=
    (Asymptotics.isLittleO_one_iff ℝ).mp
      (hO_bigO.trans_isLittleO ((Asymptotics.isLittleO_one_iff ℝ).mpr hg))
  -- Eventually u(n) < n^{1+c}, contradicting the infinitely-often lower bound
  have hLt : ∀ᶠ (n : ℕ) in atTop, ¬((n : ℝ) ^ (1 + c) ≤ (maxUnitDistances n : ℝ)) := by
    filter_upwards [hO_eq, hO_zero.eventually (Iio_mem_nhds hc), eventually_ge_atTop 2]
      with n hEq hOLt hn
    rw [not_le, hEq]
    exact Real.rpow_lt_rpow_of_exponent_lt (by exact_mod_cast (by omega : 1 < n)) (by linarith)
  rw [← cofinite_eq_atTop] at hLt
  exact hInf.frequently_cofinite hLt

```

Let's add the implications as test statements!
Also: let's use latex docstring outside of FormalConjecturesForMathlib

**Review by mo271 — COMMENTED** [review]
Thanks! Some initial remarks..
Also: I don't think we need to repeat the statements in multiple files, perhaps just put everything in Erdos 90?

**Comment by henrykmichalewski** [comment]
Thanks for the quick review @mo271! Addressed all four points in `ba09e30`:

1. **Single file.** Consolidated everything into `ErdosProblems/90.lean` and deleted `Arxiv/2605.20579/` and `Arxiv/2605.20695/` — no more cross-file repetition.
2. **Numeral.** Switched to the decimal literal `1.014114 : ℝ`.
3. **Implication lemmas.** Added both as `@[category test]` with the proofs you supplied — `sawin_explicit_implies_polynomial_lower_bound` and `polynomial_lower_bound_implies_erdos_90`. They compile cleanly, so the file now carries proved content linking the variants rather than only `sorry` stubs. 🙏
4. **Docstrings.** Converted the math to LaTeX `$...$`.

I kept the two structural reductions from Sawin's proof as additional benchmark statements in the same file: `sawin_lattice_reduction` (Lemma 2, the elementary geometry-of-numbers step) and `sawin_totally_real_tower` (Lemmas 11–12 / Remarks Prop 2.3). For the latter, note the prime set `Q` is quantified *outside* the degree `∀ N` — a per-field "infinitely many split primes" clause would be vacuous by Chebotarev; the real content is one fixed infinite set of primes splitting completely in fields of unbounded degree. Happy to drop or further trim these if you'd prefer the file to stay focused on just the `u(n)` statements.

`lake build` is green locally against Mathlib v4.27.0. (The earlier red CI was a runner "no space left on device" crash during the doc-deploy step, after the Lean build itself passed.)

**Review by mo271 — APPROVED** [review]
Thanks again, LGTM now

**Comment by mo271** [comment]
@henrykmichalewski I assume this is good to go as is? Asking because it is still marked as "draft"
